US06803465B2
To a solution prepared by introducing 7.78 g (213.3 mmol) of hydrogen chloride gas in 45.9 g of ethyl acetate, 176.0 g of a solution containing the obtained (+)-1-[(4-chlorophenyl)phenylmethyl]-4-(tert-butoxycarbonyl)piperazine (optical purity 98.0% ee) was added dropwise at 20° C. over 1 hour. After stirring at that temperature, the mixture was heated up to 60° C. for 30 minutes and was stirred at this temperature for 3 hours. After cooling to 20° C., the crystals formed were collected by filtration and were washed with toluene. The crystals obtained were dried under reduced pressure to yield 8.51 g (23.7 mmol) of (+)-1-[(4-chlorophenyl)phenylmethyl]piperazine dihydrochloride from the (+)-1-[(4-chlorophenyl)phenylmethyl]-4-(tert-butoxycarbonyl)piperazine-2D-(−)-O,O′-dibenzoyltartaric acid salt in a yield of 88.1%. The optical purity of the (+)-1-[(4-chlorophenyl)phenylmethyl]piperazine in the crystals was 98.4% ee.

reactant | hydrogen chloride | 213.3 mmol, 7.78 g | Cl | ClH
reactant | (+)-1-[(4-chlorophenyl)phenylmethyl]-4-(tert-butoxycarbonyl)piperazine | ClC1=CC=C(C=C1)C(N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C22H27ClN2O2
solvent | ethyl acetate | 45.9 g | C(C)(=O)OCC | C4H8O2
product | (+)-1-[(4-chlorophenyl)phenylmethyl]piperazine dihydrochloride | 23.7 mmol, 8.51 g, yield of 88.1% | Cl.Cl.ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | InChI=1S/C17H19ClN2.2ClH/c18-16-8-6-15(7-9-16)17(14-4-2-1-3-5-14)20-12-10-19-11-13-20;;/h1-9,17,19H,10-13H2;2*1H
